US04619927
A solution of 1-carbobenzoxy-4-(2-hydroxyethyl)piperazine-3-one (1.0 g, 35.9 mmol) in absolute ethanol (75 ml) was hydrogenated over a 10% palladium on carbon catalyst (1.0 g) at 20°-25° and an initial pressure of 40 psi for 6 hours. Catalyst was removed by filtration through diatomaceous earth and the filtrate concentrated under reduced pressure to give 4-(2-hydroxyethyl)piperazine-3-one.

reactant | 1-carbobenzoxy-4-(2-hydroxyethyl)piperazine-3-one | 35.9 mmol, 1.0 g | C(=O)(OCC1=CC=CC=C1)N1CC(N(CC1)CCO)=O | C14H18N2O4
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 4-(2-hydroxyethyl)piperazine-3-one | OCCN1C(CNCC1)=O | C6H12N2O2
